US08735405B2
7-Cyclopropylmethyl-5-(2-phenylquinolin-7-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
Following the general procedure for the Suzuki coupling, 7-cyclopropylmethyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (94.0 mg, 0.299 mmol) was reacted with 2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline (104 mg, 0.314 mmol), Na2CO3 (79.0 mg, 0.745 mmol) and Pd(PPh3)4 (21 mg, 0.018 mmol) in DMF (7.5 mL)/water (1.5 mL). The crude material was purified by an SCX column (2 g/6 mL barrel) followed by column chromatography on silica gel [Jones Flashmaster, 10 g/70 mL cartridge, eluting with CH2Cl2 (1-14)→1% MeOH in CH2Cl2 (15-34)→2% MeOH in CH2Cl2 (35-56)], yielding the title compound as an off-white yellow solid. 1H NMR (CDCl3, 400 MHz): δ=0.44-0.50 (m, 2H), 0.63-0.71 (m, 2H), 1.29-1.39 (m, 1H), 4.15 (d, J=7.2 Hz, 2H), 5.20 (brs, 2H), 7.29 (s, 1H), 7.46-7.52 (m, 1H), 7.52-7.58 (m, 2H), 7.71 (dd, J=1.8, 8.2 Hz, 1H), 7.91 (d, J=8.8 Hz, 1H), 7.93 (d, J=8.4 Hz, 1H), 8.17-8.22 (m, 2H), 8.27 (d, J=8.8 Hz, 1H), 8.29-8.32 (m, 1H), 8.36 (s, 1H). 13C NMR (CDCl3, 100.6 MHz, DEPT135): S=4.05 (2C, −), 11.31 (+), 48.99 (−), 100.98 (Cquart), 115.67 (Cquart), 118.96 (+), 123.30 (+), 125.94 (Cquart), 127.46 (+), 127.55 (2C, +), 128.23 (+), 128.47 (+), 128.87 (2C, +), 129.50 (+), 136.50 (Cquart), 136.55 (+), 139.45 (Cquart), 148.52 (Cquart), 150.97 (Cquart), 152.04 (+), 156.99 (Cquart), 158.12 (Cquart). MS (ES+): m/z 392.1 (100) [MH+], 338.2 (22) [MH+—C4H6]. HPLC: tR=2.9 min (OpenLynx, polar—5 min).

reactant | 7-cyclopropylmethyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 0.299 mmol, 94.0 mg | C1(CC1)CN1C=C(C2=C1N=CN=C2N)I | C10H11IN4
reactant | 2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline | 0.314 mmol, 104 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)B1OC(C(O1)(C)C)(C)C | C21H22BNO2
reactant | Na2CO3 | 0.745 mmol, 79.0 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 1.5 mL | O | H2O
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.018 mmol, 21 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Cyclopropylmethyl-5-(2-phenylquinolin-7-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C1(CC1)CN1C=C(C2=C1N=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C25H21N5
